US07560558B2
Compound 410: [6-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yl]-(2-morpholin-4-yl-ethyl)-amine
(4-Chloro-6-methoxy-quinolin-7-yl)-(2-morpholin-4-yl-ethyl)-amine (53 mg), 3-hydroxy-2-methyl-quinolin-4-carboxylic acid (126 mg), and 4-dimethylaminopyridine (200 mg) were suspended in o-dichlorobenzene (8 ml). The suspension was stirred at 140° C. overnight. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using methanol-chloroform to give the title compound (12 mg, yield 16%).

reactant | (4-Chloro-6-methoxy-quinolin-7-yl)-(2-morpholin-4-yl-ethyl)-amine | 53 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)NCCN1CCOCC1 | C16H20ClN3O2
reactant | 3-hydroxy-2-methyl-quinolin-4-carboxylic acid | 126 mg | OC=1C(=NC2=CC=CC=C2C1C(=O)O)C | C11H9NO3
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 8 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | [6-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-7-yl]-(2-morpholin-4-yl-ethyl)-amine | 12 mg, yield 16% | COC=1C=C2C(=CC=NC2=CC1NCCN1CCOCC1)OC=1C(=NC2=CC=CC=C2C1)C | C26H28N4O3
